US09212174B2
Thymine (16.7 g), N,N′-dimethylformamide (162 g), and tetrakis(triphenylphosphine)palladium(0) (917 mg) were added to a glass reactor under nitrogen, and the mixture was heated to 55° C. Then, a solution of (2S,5R)-5-t-butoxycarbonyloxymethyl-5-ethynyl-2-t-butoxycarbonyloxy-2,5-dihydrofuran (β/α=>99/1) (9.0 g) in N,N′-dimethylformamide was added dropwise thereto, and the mixture was stirred for 30 minutes. The reaction mixture was filtered, and water was added to the filtrate, followed by stirring for phase separation. The thus-separated organic layer was concentrated. The residue was purified through recrystallization from acetonitrile and toluene, to thereby yield 6.5 g of (2R,5R)-5-t-butoxycarbonyloxymethyl-5-ethynyl-2-(thymin-1-yl)-2,5-dihydrofuran (yield: 72%, β/α=>99/1). The 1H-NMR data of the compound are as follows.

reactant | Thymine | 16.7 g | N1C(=O)NC(=O)C(C)=C1 | C5H6N2O2
reactant | (2S,5R)-5-t-butoxycarbonyloxymethyl-5-ethynyl-2-t-butoxycarbonyloxy-2,5-dihydrofuran | 9.0 g | C(C)(C)(C)OC(=O)OC[C@@]1(C=C[C@@H](O1)OC(=O)OC(C)(C)C)C#C | C17H24O7
solvent | N,N′-dimethylformamide | CN(C)C=O | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 917 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | N,N′-dimethylformamide | 162 g | CN(C)C=O | C3H7NO
product | (2R,5R)-5-t-butoxycarbonyloxymethyl-5-ethynyl-2-(thymin-1-yl)-2,5-dihydrofuran | yield 6.5 g, yield: 72% | C(C)(C)(C)OC(=O)OC[C@@]1(C=C[C@@H](O1)N1C(=O)NC(=O)C(C)=C1)C#C | C17H20N2O6
